** Name: SimpleOpAmp10

.MACRO SimpleOpAmp10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos2 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos3 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=21e-6
mNormalTransistorNmos4 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=60e-6
mNormalTransistorNmos5 out in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=31e-6
mNormalTransistorNmos6 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=31e-6
mNormalTransistorNmos7 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=83e-6
mNormalTransistorPmos8 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=168e-6
mNormalTransistorPmos9 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=21e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp10

** Expected Performance Values: 
** Gain: 54 dB
** Power consumption: 1.23501 mW
** Area: 622 (mu_m)^2
** Transit frequency: 13.4011 MHz
** Transit frequency with error factor: 13.401 MHz
** Slew rate: 13.5723 V/mu_s
** Phase margin: 85.9437°
** CMRR: 97 dB
** VoutMax: 4.25 V
** VoutMin: 0.360001 V
** VcmMax: 4.09001 V
** VcmMin: 0.760001 V


** Expected Currents: 
** NormalTransistorNmos: 100.565 muA
** DiodeTransistorPmos: -68.1809 muA
** NormalTransistorPmos: -68.1809 muA
** NormalTransistorPmos: -68.1809 muA
** NormalTransistorNmos: 136.361 muA
** NormalTransistorNmos: 68.1801 muA
** NormalTransistorNmos: 68.1801 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -100.564 muA


** Expected Voltages: 
** ibias: 0.603001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 3.83601  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.93401  V


.END