** Name: SimpleOpAmp117

.MACRO SimpleOpAmp117 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=7e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=54e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=61e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=10e-6 W=12e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=115e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=41e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=203e-6
mNormalTransistorNmos9 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=115e-6
mNormalTransistorNmos10 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=447e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=432e-6
mNormalTransistorNmos12 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=115e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=5e-6 W=193e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=5e-6 W=193e-6
mNormalTransistorPmos15 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=10e-6 W=53e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=306e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=115e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp117

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 2.28301 mW
** Area: 8565 (mu_m)^2
** Transit frequency: 15.5091 MHz
** Transit frequency with error factor: 15.5087 MHz
** Slew rate: 28.2107 V/mu_s
** Phase margin: 80.7871°
** CMRR: 137 dB
** VoutMax: 3.93001 V
** VoutMin: 0.600001 V
** VcmMax: 3.62001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 27.3551 muA
** NormalTransistorNmos: 135.378 muA
** NormalTransistorPmos: -136.751 muA
** NormalTransistorNmos: 73.5181 muA
** NormalTransistorNmos: 73.5181 muA
** DiodeTransistorPmos: -73.5189 muA
** NormalTransistorPmos: -73.5189 muA
** NormalTransistorPmos: -73.5189 muA
** NormalTransistorNmos: 283.791 muA
** NormalTransistorNmos: 283.79 muA
** NormalTransistorNmos: 73.5191 muA
** NormalTransistorNmos: 73.5191 muA
** DiodeTransistorNmos: 136.752 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -27.3559 muA
** DiodeTransistorPmos: -135.377 muA


** Expected Voltages: 
** ibias: 1.18701  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX0: 4.11901  V
** inputVoltageBiasXXpXX1: 1.93601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXnXX1: 2.65001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.632001  V
** innerTransistorStack2Load2: 3.37701  V
** out1: 4.24601  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END