** Name: SimpleOpAmp12

.MACRO SimpleOpAmp12 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=7e-6
mDiodeTransistorPmos2 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mNormalTransistorNmos3 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=77e-6
mNormalTransistorNmos4 out in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=33e-6
mNormalTransistorNmos5 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=33e-6
mNormalTransistorNmos6 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=92e-6
mNormalTransistorPmos7 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=159e-6
mNormalTransistorPmos8 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=30e-6
mNormalTransistorPmos9 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=30e-6
mNormalTransistorPmos10 FirstStageYinnerSourceLoad1 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=159e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp12

** Expected Performance Values: 
** Gain: 55 dB
** Power consumption: 1.24401 mW
** Area: 1103 (mu_m)^2
** Transit frequency: 13.4481 MHz
** Transit frequency with error factor: 13.4479 MHz
** Slew rate: 12.8376 V/mu_s
** Phase margin: 87.6626°
** CMRR: 98 dB
** VoutMax: 4.25 V
** VoutMin: 0.380001 V
** VcmMax: 4.81001 V
** VcmMin: 0.780001 V


** Expected Currents: 
** NormalTransistorNmos: 109.932 muA
** NormalTransistorPmos: -64.4829 muA
** NormalTransistorPmos: -64.4839 muA
** NormalTransistorPmos: -64.4829 muA
** NormalTransistorPmos: -64.4839 muA
** NormalTransistorNmos: 128.965 muA
** NormalTransistorNmos: 64.4821 muA
** NormalTransistorNmos: 64.4821 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -109.931 muA


** Expected Voltages: 
** ibias: 0.629001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 3.83601  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94301  V


.END