** Name: SimpleOpAmp129

.MACRO SimpleOpAmp129 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=4e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=20e-6
mDiodeTransistorPmos3 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=2e-6 W=7e-6
mNormalTransistorNmos4 out outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=32e-6
mNormalTransistorNmos5 FirstStageYout1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=32e-6
mNormalTransistorPmos6 out FirstStageYout1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=3e-6 W=9e-6
mNormalTransistorPmos7 out in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=259e-6
mNormalTransistorPmos8 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=45e-6
mNormalTransistorPmos9 FirstStageYout1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=2e-6 W=7e-6
mNormalTransistorPmos10 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=259e-6
mNormalTransistorPmos11 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=600e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp129

** Expected Performance Values: 
** Gain: 46 dB
** Power consumption: 2.04201 mW
** Area: 1510 (mu_m)^2
** Transit frequency: 26.5591 MHz
** Transit frequency with error factor: 26.5591 MHz
** Slew rate: 30.3246 V/mu_s
** Phase margin: 69.9009°
** CMRR: 71 dB
** VoutMax: 3 V
** VoutMin: 0.520001 V
** VcmMax: 4.09001 V
** VcmMin: -0.0499999 V


** Expected Currents: 
** NormalTransistorPmos: -22.4899 muA
** NormalTransistorPmos: -30.0779 muA
** NormalTransistorPmos: -30.0789 muA
** DiodeTransistorPmos: -30.0779 muA
** NormalTransistorNmos: 182.916 muA
** NormalTransistorNmos: 182.916 muA
** NormalTransistorPmos: -305.673 muA
** NormalTransistorPmos: -152.836 muA
** NormalTransistorPmos: -152.836 muA
** DiodeTransistorNmos: 22.4891 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.26801  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX1: 0.923001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load1: 3.74601  V
** out1: 2.43601  V
** sourceTransconductance: 3.24501  V


.END