** Name: SimpleOpAmp13

.MACRO SimpleOpAmp13 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mDiodeTransistorPmos2 FirstStageYinnerOutputLoad1 FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=42e-6
mDiodeTransistorPmos3 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=1e-6 W=42e-6
mNormalTransistorNmos4 out in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=70e-6
mNormalTransistorNmos5 FirstStageYinnerOutputLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=70e-6
mNormalTransistorNmos6 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=114e-6
mNormalTransistorPmos7 out FirstStageYinnerOutputLoad1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=1e-6 W=42e-6
mNormalTransistorPmos8 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=1e-6 W=42e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp13

** Expected Performance Values: 
** Gain: 50 dB
** Power consumption: 1.18401 mW
** Area: 1085 (mu_m)^2
** Transit frequency: 13 MHz
** Transit frequency with error factor: 13.0001 MHz
** Slew rate: 22.5953 V/mu_s
** Phase margin: 88.2356°
** CMRR: 96 dB
** VoutMax: 3.66001 V
** VoutMin: 0.540001 V
** VcmMax: 3.5 V
** VcmMin: 0.950001 V


** Expected Currents: 
** DiodeTransistorPmos: -113.359 muA
** NormalTransistorPmos: -113.36 muA
** NormalTransistorPmos: -113.359 muA
** DiodeTransistorPmos: -113.36 muA
** NormalTransistorNmos: 226.718 muA
** NormalTransistorNmos: 113.36 muA
** NormalTransistorNmos: 113.36 muA
** DiodeTransistorNmos: 9.99901 muA


** Expected Voltages: 
** ibias: 0.670001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad1: 3.09201  V
** innerSourceLoad1: 4.04601  V
** innerTransistorStack1Load1: 4.04301  V
** sourceTransconductance: 1.81701  V


.END