** Name: SimpleOpAmp130

.MACRO SimpleOpAmp130 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=34e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=39e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=7e-6 W=22e-6
mDiodeTransistorPmos4 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=4e-6 W=5e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=3e-6 W=62e-6
mNormalTransistorNmos6 FirstStageYinnerTransistorStack1Load2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=84e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack2Load2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=84e-6
mNormalTransistorNmos8 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=3e-6 W=62e-6
mNormalTransistorPmos9 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=7e-6 W=78e-6
mNormalTransistorPmos10 out FirstStageYout1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=4e-6 W=6e-6
mNormalTransistorPmos11 out in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=159e-6
mNormalTransistorPmos12 FirstStageYout1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=4e-6 W=5e-6
mNormalTransistorPmos13 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=159e-6
mNormalTransistorPmos14 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=7e-6 W=280e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp130

** Expected Performance Values: 
** Gain: 53 dB
** Power consumption: 1.05401 mW
** Area: 4137 (mu_m)^2
** Transit frequency: 13.5871 MHz
** Transit frequency with error factor: 13.5869 MHz
** Slew rate: 12.9022 V/mu_s
** Phase margin: 67.6091°
** CMRR: 79 dB
** VoutMax: 3 V
** VoutMin: 0.800001 V
** VcmMax: 3.86001 V
** VcmMin: -0.169999 V


** Expected Currents: 
** NormalTransistorPmos: -35.6949 muA
** NormalTransistorPmos: -12.6909 muA
** NormalTransistorPmos: -12.6919 muA
** DiodeTransistorPmos: -12.6909 muA
** NormalTransistorNmos: 77.5911 muA
** NormalTransistorNmos: 77.5911 muA
** NormalTransistorNmos: 77.5921 muA
** NormalTransistorNmos: 77.5911 muA
** NormalTransistorPmos: -129.8 muA
** NormalTransistorPmos: -64.9009 muA
** NormalTransistorPmos: -64.9009 muA
** DiodeTransistorNmos: 35.6941 muA
** DiodeTransistorNmos: 35.6951 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.01201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.18301  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.586001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 0.567001  V
** innerTransistorStack2Load1: 3.68601  V
** innerTransistorStack2Load2: 0.567001  V
** out1: 2.43601  V
** sourceTransconductance: 3.21501  V


.END