** Name: SimpleOpAmp137

.MACRO SimpleOpAmp137 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=121e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=29e-6
mDiodeTransistorPmos3 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=10e-6 W=177e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=2e-6 W=177e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=298e-6
mNormalTransistorNmos6 FirstStageYout1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=298e-6
mNormalTransistorPmos7 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=293e-6
mNormalTransistorPmos8 out FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=2e-6 W=177e-6
mNormalTransistorPmos9 out in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=405e-6
mNormalTransistorPmos10 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=10e-6 W=177e-6
mNormalTransistorPmos11 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=405e-6
mNormalTransistorPmos12 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=429e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp137

** Expected Performance Values: 
** Gain: 40 dB
** Power consumption: 3.15301 mW
** Area: 11765 (mu_m)^2
** Transit frequency: 13.2611 MHz
** Transit frequency with error factor: 13.2606 MHz
** Slew rate: 14.7035 V/mu_s
** Phase margin: 75.6305°
** CMRR: 94 dB
** VoutMax: 3 V
** VoutMin: 0.220001 V
** VcmMax: 4.06001 V
** VcmMin: -0.339999 V


** Expected Currents: 
** NormalTransistorPmos: -101.77 muA
** DiodeTransistorPmos: -179.236 muA
** NormalTransistorPmos: -179.235 muA
** NormalTransistorPmos: -179.236 muA
** DiodeTransistorPmos: -179.235 muA
** NormalTransistorNmos: 254.368 muA
** NormalTransistorNmos: 254.368 muA
** NormalTransistorPmos: -150.26 muA
** NormalTransistorPmos: -75.1309 muA
** NormalTransistorPmos: -75.1309 muA
** DiodeTransistorNmos: 101.771 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.23901  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.629001  V
** out: 2.5  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 3.68701  V
** innerTransistorStack1Load1: 3.68401  V
** out1: 2.78501  V
** sourceTransconductance: 3.24001  V


.END